US08049015B2
[5-(2-ethylaminomethyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester and ethoxyacetic acid were reacted as described in Example 8, Step 6 to provide [5-(2-{[N-(2-ethoxy-acetyl)-N-ethyl-amino]-methyl}-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester. The ester was hydrolyzed to the acid as described in Example 30, Step 2.

reactant | [5-(2-ethylaminomethyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C19H21F3N2O2
reactant | ethoxyacetic acid | C(C)OCC(=O)O | C4H8O3
product | [5-(2-{[N-(2-ethoxy-acetyl)-N-ethyl-amino]-methyl}-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(COCC)=O)=O | C23H27F3N2O4
